US09382228B2
A solution of 5-(4-((2-methyl-6-nitropyridin-3-yl)oxy)pyridin-2-yl)thiazole (0.34 g, 1.082 mmol) in THF (10 mL) and MeOH (10 mL) was treated with NH4Cl (2.314 g, 43.3 mmol) followed by zinc powder (1.061 g, 16.23 mmol) and stirred at RT for 24 h. The solids were removed via filtration through diatomaceous earth, washed well with MeOH and the filtrate concentrated to dryness. The residue was treated with water, extracted with EtOAc (3×) and the combined organics were washed with brine, dried over Na2SO4 and concentrated to dryness. The material was suspended in 30% EtOAc/Hex, sonicated and the solid collected via filtration and dried to afford 6-methyl-5-((2-(thiazol-5-yl)pyridin-4-yl)oxy)pyridin-2-amine (220 mg, 72%) as an off-white solid. 1H NMR (400 MHz, DMSO-d6): δ 9.12 (s, 1H), 8.58 (s, 1H), 8.37 (d, J=5.8 Hz, 1H), 7.59 (d, J=2.4 Hz, 1H), 7.20 (d, J=8.7 Hz, 1H), 6.61 (dd, J=5.8, 2.4 Hz, 1H), 6.35 (d, J=8.7 Hz, 1H), 5.97 (s, 2H), 2.08 (s, 3H); MS (ESI) m/z: 285.1 (M+H+).

reactant | 5-(4-((2-methyl-6-nitropyridin-3-yl)oxy)pyridin-2-yl)thiazole | 1.082 mmol, 0.34 g | CC1=NC(=CC=C1OC1=CC(=NC=C1)C1=CN=CS1)[N+](=O)[O-] | C14H10N4O3S
reactant | NH4Cl | 43.3 mmol, 2.314 g | [NH4+].[Cl-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | MeOH | 10 mL | CO | CH4O
catalyst | zinc | 16.23 mmol, 1.061 g | [Zn] | Zn
product | 6-methyl-5-((2-(thiazol-5-yl)pyridin-4-yl)oxy)pyridin-2-amine | 220 mg, 72% | CC1=C(C=CC(=N1)N)OC1=CC(=NC=C1)C1=CN=CS1 | C14H12N4OS
